US06919352B2
To a cold (0° C.) solution of 6-chloro-2-picoline (18.3 mL, 166.5 mmol) and ethyl 4-methoxybenzoate (30.0 g, 166.5 mmol) in tetrahydrofuran (300 mL) was added lithium bis(trimethylsilyl)amide (333 mL 1.0 M in tetrahydrofuran, 332.7 mmol) dropwise via a pressure equalizing funnel over 1 hour. Upon complete addition, the cold bath was removed and the resulting solution was heated at 45° C. for 15 hours. The mixture was cooled to room temperature, and the solution was concentrated. Methanol was added to quench the reaction, resulting in the formation of a yellow precipitate. The precipitate was collected by filtration and dried to give 2-(6-chloro-2-pyridinyl)-1-(4-methoxyphenyl)ethanone (37.4 g, 86%) as a yellow solid. 1H NMR (CDCl3): δ 7.99 (d, 2H), 7.57 (t, 1H), 7.22-7.19 (m, 2H), 6.90 (d, 2H), 4.39 (s, 2H), 3.83 (s, 3H); MS m/z 262 (M+1).

reactant | 6-chloro-2-picoline | 166.5 mmol, 18.3 mL | ClC1=CC=CC(=N1)C | C6H6ClN
reactant | ethyl 4-methoxybenzoate | 166.5 mmol, 30.0 g | COC1=CC=C(C(=O)OCC)C=C1 | C10H12O3
reactant | lithium bis(trimethylsilyl)amide | 332.7 mmol, 1.0 M, 333 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 2-(6-chloro-2-pyridinyl)-1-(4-methoxyphenyl)ethanone | 37.4 g, 86% | ClC1=CC=CC(=N1)CC(=O)C1=CC=C(C=C1)OC | C14H12ClNO2
